US07754747B2
Step 2: 5-({[6-(2-Benzyl-1,3-oxazol-5-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole.
A mixture of [6-(2-benzyl-oxazol-5-yl)-naphthalen-2-yloxy]-acetonitrile (618 mg, 1.82 mmol), prepared in the previous step, sodium azide (355 mg, 5.46 mmol) and ammonium chloride (312 mg, 5.83 mmol) in 50 mL of DMF was stirred under nitrogen at 100° C. for 5 h. Following the reaction by MS, starting material remained. Additional sodium azide (351 mg, 5.44 mmol) and ammonium chloride (316 mg, 5.85 mmol) were added and the reaction stirred at 100° C. for two more hours. The reaction was at first diluted with 10 ml of H2O, then was made basic with 1N NaOH and finally acidified with 1N HCl. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (568 mg, 82%) as a white solid, mp 227-228° C. Elemental Analysis for C22H17N5O2+0.37 H2O Calc'd: C, 67.74; H, 4.58; N, 17.95. Found: C, 67.84; H, 4.33; N, 18.09

reactant | [6-(2-benzyl-oxazol-5-yl)-naphthalen-2-yloxy]-acetonitrile | 1.82 mmol, 618 mg | C(C1=CC=CC=C1)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C22H16N2O2
reactant | sodium azide | 5.46 mmol, 355 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 5.83 mmol, 312 mg | [Cl-].[NH4+]
reactant | sodium azide | 5.44 mmol, 351 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 5.85 mmol, 316 mg | [Cl-].[NH4+]
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 ml | O | H2O
product | 5-({[6-(2-Benzyl-1,3-oxazol-5-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole | 568 mg, 82% | C(C1=CC=CC=C1)C=1OC(=CN1)C=1C=C2C=CC(=CC2=CC1)OCC1=NN=NN1 | C22H17N5O2
